US07923465B2
Step 1: Ethyl 2-oxo-2(3-oxobicyclo[2.2.1]hept-2-yl)acetate
The title product was prepared by a procedure similar to that described in step 1 of intermediate 1, from hexamethyldisilazane (4.2 ml, 20.0 mmol), ether (91 ml), nBuLi (2.3M in hexane, 11.63 ml, 27.3 mmol), norcamphor (2.0 g, 18.2 mmol) and diethyl oxalate (2.96 ml, 21.82 mmol) the title product was obtained.

reactant | hexamethyldisilazane | 20.0 mmol, 4.2 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | nBuLi | 27.3 mmol, 2.3M, 11.63 ml | [Li]CCCC
reactant | norcamphor | 18.2 mmol, 2.0 g | C1CC2CC1CC2=O | C7H10O
reactant | diethyl oxalate | 21.82 mmol, 2.96 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ether | 91 ml | CCOCC | C4H10O
product | Ethyl 2-oxo-2(3-oxobicyclo[2.2.1]hept-2-yl)acetate | O=C(C(=O)OCC)C1C2CCC(C1=O)C2 | C11H14O4
